US06469043B1
Ethyl pyruvate 2-(4-methyl-2-nitrophenyl)hydrazone
Into 110 ml of water was suspended 30.00 g (0.197 mol) of 4-methyl-2-nitroaniline followed by adding 66 ml of concentrated hydrochloric acid thereto. An aqueous solution (35 ml) of 16.33 g (0.237 mol) of sodium nitrite was added dropwise thereinto at 10° C. or below, followed by stirring for 40 minutes under ice-cooling to prepare a diazonium salt solution. In a mixed solution of 150 ml of ethanol and 300 ml of water was dissolved 28.43 g (0.197 mol) of ethyl 2-methylacetoacetate, followed by adding 120 ml of an aqueous solution of 53.36 g (0.808 mol) of potassium hydroxide thereto under ice-cooling. Then, the previously-prepared diazonium salt solution was added dropwise thereinto at the same temperature and stirred under ice-cooling for 20 minutes. After concentrated hydrochloric acid was added thereto to adjust to pH 1, the resulting precipitates were collected by filtration, washed with water and vacuum dried on phosphorus pentaoxide to give 46.42 g of the title compound.

reactant | 4-methyl-2-nitroaniline | 0.197 mol, 30.00 g | CC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O2
reactant | hydrochloric acid | 66 ml | Cl | ClH
reactant | sodium nitrite | 0.237 mol, 16.33 g | N(=O)[O-].[Na+]
reactant | ethyl 2-methylacetoacetate | 0.197 mol, 28.43 g | CC(C(=O)OCC)C(=O)C | C7H12O3
reactant | potassium hydroxide | 0.808 mol, 53.36 g | [OH-].[K+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 300 ml | O | H2O
solvent | water | 110 ml | O | H2O
product | Ethyl pyruvate 2-(4-methyl-2-nitrophenyl)hydrazone | 46.42 g | CC1=CC(=C(C=C1)NN=C(C(=O)OCC)C)[N+](=O)[O-] | C12H15N3O4
